US06372759B1
A) N-(6-indolyl)-2-aminobenzamide
A mixture of isatoic anhydride (5.06 g, 31 mmol), 6-aminoindole (4.103 g, 31 mmol), toluene (300 mL) and DMF (30 mL) was heated to reflux for 18 hours. The reaction was cooled, filtered, and chromatographed to yield 4.103 g (53%) of the title compound as a tan solid.

reactant | isatoic anhydride | 31 mmol, 5.06 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 6-aminoindole | 31 mmol, 4.103 g | NC1=CC=C2C=CNC2=C1 | C8H8N2
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-(6-indolyl)-2-aminobenzamide | 4.103 g, 53% | N1C=CC2=CC=C(C=C12)NC(C1=C(C=CC=C1)N)=O | C15H13N3O
